US07935699B2
A solution of (R)-3-cyclopentyl-2-(4-cyclopropylsulfanyl-phenyl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide (715 mg, 1.63 mmol) in dioxane (5 mL) was treated with a 9 N aqueous sulfuric acid solution (1.3 mL). The resulting solution was then heated at 105° C. for 16 h. The reaction was then cooled and diluted with water (13 mL) and extracted with a chloroform/methanol solution (3:2, 3×20 mL) and then combined the organic extracts dried over magnesium sulfate, filtered and concentrated. Purification on an AnaLogix Intelliflash system (12 g column, 10% ethyl acetate/hexanes to 80% ethyl acetate/hexanes) afforded (R)-3-cyclopentyl-2-(4-cyclopropylsulfanyl-phenyl)-propionic acid (278 mg, 59%) as a white solid: [α]25589=−52.6° (c=0.19, methanol); ES-HRMS m/e calcd for C17H22O2S (M−H)− 289.1268, observed 289.1268; 1H NMR (300 MHz, CDCl3) δ 1.61-2.05 (m, 4H, 2×CH2), 2.45 (s, 3 H, ArCH3), 3.76 (m, 2H, OCH2), 4.00 (m, 2H, SO3CH2), 4.08 (m, 1H, OCH), 7.35 (brd, 2H, Ar), 7.81 (brd, 2H, Ar).

reactant | (R)-3-cyclopentyl-2-(4-cyclopropylsulfanyl-phenyl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide | 1.63 mmol, 715 mg | C1(CCCC1)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)C1=CC=C(C=C1)SC1CC1 | C27H35NO2S
reactant | sulfuric acid | 9 N, 1.3 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 13 mL | O | H2O
product | (R)-3-cyclopentyl-2-(4-cyclopropylsulfanyl-phenyl)-propionic acid | 278 mg, 59% | C1(CCCC1)C[C@@H](C(=O)O)C1=CC=C(C=C1)SC1CC1 | C17H22O2S
